Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left sided abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ white male with insulin-dependent diabetes and a 
history of diverticulitis in the past involving the right colon, 
presenting with 3 days of dull left flank to left lower quadrant 
and groin pain.  
 The pain started gradually. It's ___ without progression. Rest 
alleviates the pain and movement worsens the pain.  
 Patient also complains of constipation which started ___ days 
ago. He used to have one bowel movement every ___ days but he 
reports having less bowel movements now. He denies dark stool or 
BRBPR. He reports "round ball stool". He reports a large bowel 
movement 1.5 hours ago compared to usual. He reports the stool 
as liquidy and dark brown. He denies BRBPR or mucus.  
 Patient also had diaphoresis felt like he had fever yesterday 
with normal room temperature at home. He did not check his 
temperature and he recovered without any intervention. On 
physical exam, abdomen somewhat tender in the left lower 
quadrant only. He was seen at ___ today and underwent a CT 
abdomen, which showed possibly subacute diverticulitis, but also 
a left perinephric abscess which may warrant interventional 
radiology. He was transferred to ___ for further evaluation.  
 Patient denies fever, chills, chest pain, SOB, headache, 
nausea/vomiting, cough, UOP changes, dysuria, hematuria. He 
reports decreased appetite without recent weight change.  
 
Past Medical History:
 -HTN  
 -DM2  
 -Ulcerative colitis (last colonoscopy ___ years ago showing 
remission)  
 -Bilateral Hernia Repair  
 
Social History:
___
Family History:
Mother: HTN  
Uncle and aunt: type 1 DM  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: ___ 23:43 T 98.8PO BP 125/84 mmHg HR 93 RR 18 O2 sat
97% RA  
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. No JVD.
CARDIAC: Systolic murmur was noted at the apex. Regular rhythm,
normal rate. Audible S1 and S2. 
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: Left flank tenderness. Left CVA tenderness. No spinous
process tenderness. 
ABDOMEN: TTP in LLQ. Normal bowels sounds, distended. No
organomegaly.
EXTREMITIES: No clubbing, cyanosis. +1 pitting edema 
bilaterally.
Pulses DP/Radial 2+ bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.

DISCHARGE PHYSICAL EXAM:
========================
___ 0729 Temp: 97.8 PO BP: 112/68 HR: 84 RR: 18 O2
sat: 94% FSBG: 147  
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. No JVD.
CARDIAC: Systolic murmur was noted at the apex. Regular rhythm,
normal rate. Audible S1 and S2. 
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: Left flank tenderness. Left CVA tenderness. No spinous
process tenderness. 
ABDOMEN: TTP in LLQ, although improved from prior per report. 
Normal bowels sounds, distended. No organomegaly.
EXTREMITIES: No clubbing, cyanosis. +1 pitting edema 
bilaterally.
Pulses DP/Radial 2+ bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.

 
Pertinent Results:
ADMISSION LABS:
===============
___ 02:12PM BLOOD WBC-15.0* RBC-4.68 Hgb-14.1 Hct-42.1 
MCV-90 MCH-30.1 MCHC-33.5 RDW-14.1 RDWSD-46.8* Plt ___
___ 02:12PM BLOOD Neuts-82.9* Lymphs-5.0* Monos-11.1 
Eos-0.4* Baso-0.1 Im ___ AbsNeut-12.45* AbsLymp-0.75* 
AbsMono-1.66* AbsEos-0.06 AbsBaso-0.02
___ 02:12PM BLOOD ___ PTT-29.9 ___
___ 02:12PM BLOOD Glucose-119* UreaN-20 Creat-0.9 Na-131* 
K-4.5 Cl-96 HCO3-22 AnGap-13
___ 02:12PM BLOOD ALT-18 AST-16 AlkPhos-37* TotBili-1.1
___ 02:12PM BLOOD Albumin-3.4* Calcium-8.0* Phos-2.6* 
Mg-1.9
___ 02:12PM BLOOD Albumin-3.4* Calcium-8.0* Phos-2.6* 
Mg-1.9
___ 05:30AM BLOOD CRP->300*
___ 02:20PM BLOOD Lactate-1.4
___ 04:35PM URINE Color-Yellow Appear-Clear Sp ___
___ 04:35PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 04:35PM URINE RBC-4* WBC-1 Bacteri-NONE Yeast-NONE 
Epi-0

DISCHARGE LABS:
===============
___ 05:13AM BLOOD WBC-9.4 RBC-4.81 Hgb-14.5 Hct-43.5 MCV-90 
MCH-30.1 MCHC-33.3 RDW-14.5 RDWSD-47.6* Plt ___
___ 05:13AM BLOOD ___ PTT-29.4 ___
___ 05:13AM BLOOD Glucose-117* UreaN-14 Creat-0.8 Na-138 
K-4.7 Cl-97 HCO3-24 AnGap-17
___ 05:30AM BLOOD ALT-18 AST-18 LD(LDH)-261* AlkPhos-42 
TotBili-0.9
___ 05:13AM BLOOD Lipase-29
___ 05:13AM BLOOD Calcium-8.4 Phos-2.9 Mg-2.2

MICROBIOLOGY:
=============
__________________________________________________________
___ 4:35 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 
__________________________________________________________
___ 2:12 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 

IMAGING REPORTS:
================
CT ABD/PELVIS (___):
1. Abnormal left lower pole renal process at site of a previous,
smaller simple cyst. With adjacent fat stranding, on the 
anterior
lateral left psoas margin. Process slightly heterogeneous in
attenuation, measuring 62 ___, without enhancement between the 
portal
phase and delayed acquisition. Associated with mildly delayed 
ureter
opacification, but no definite hydronephrosis. Findings suggest 
cyst
superinfection, equivalent to a perinephric abscess. 
Alternatively,
intracystic hemorrhage might have this appearance, the lab 
findings
appear to favor infection.
2. Moderate diffuse bladder wall thickening. Correlate with 
urinalysis
to exclude cystitis/UTI. Prostate enlargement, as noted.
3. Sigmoid diverticulosis. 6 to 7 cm length of sigmoid wall
thickening, with modest adjacent fat stranding or mesocolic 
reaction.
With many small lymph nodes in the sigmoid mesocolon. Findings 
might
represent subacute evolving diverticulitis or partly treated
diverticulitis. Uncomplicated. Correlation with endoscopy 
advised,
after the acute urinary tract issues are resolved to exclude a 
mucosal
process.
4. Other incidental nonacute findings as outlined.
 

 
Brief Hospital Course:
SUMMARY:
========
___ year old male with history of HTN, DM2, UC p/w 3 days of LLQ 
pain and left flank pain with CT showing diverticulitis and 
inflamed renal cyst, who was transferred from ___ for 
further urologic evaluation.

ACUTE ISSUES:
=============
#LLQ pain and left flank pain
#Diverticulitis
Patient presents with 3 days of LLQ pain and left flank pain, 
with new leukocytyosis, and elevated CRP (>300). He does report 
history of diverticulitis in the past. He was seen at ___ 
and underwent a CT abdomen which showed mild uncomplicated 
diverticulitis and left renal cyst with inflammatory changes(as 
below). Both potentially contributing to symptoms. ___ was 
consulted given the evidence
of diverticulitis, who recommended medical management. Started 
on IV levofloxacin/flagyl on admission, which were transitioned 
to PO levofloxacin/flagyl on discharge. Plan for 7 day total 
course (___). Would recommend follow up with outpatient GI 
team within ___ weeks of discharge, and repeat colonoscopy in 
___ weeks to screen for colon cancer, given admission for 
diverticulitis.

#Renal Cyst
Presenting with left sided abdominal pain as above, with CT 
showing renal cyst with surrounding evidence of inflammation. 
Concern that this may represent cyst superinfection, equivalent 
to a perinephric abscess vs. intracystic hemorrhage. Otherwise, 
UA bland, urine cultures without growth. No history of GU 
manipulation, UTI, or pyelonephritis. No urinary symptoms. 
Additionally, it appears that this renal cyst was present and 
only minimally smaller on imaging in ___ (although without 
inflammation at that time). Urology was consulted on admission. 
Per urology evaluation, given absence of obvious GU infection, 
it is more likely that this imaging represents hemorrhagic renal 
cyst rather than infected cyst/abscess. Will hold off on any 
acute intervention for now, and follow up with urology in ___ 
months with Dr. ___ repeat MRI of kidneys with and 
without contrast. If patient develops any new fevers/chills, 
recurrent abdominal pain, or any other symptoms that concern him 
at home, he agrees to seek medical care. 

CHRONIC ISSUES:
===============
#Ulcerative colitis
Patient has h/o ulcerative colitis for ___ years. Last colonoscopy 
was ___ years ago and he was told he is currently in remission. 
Will continue home azathioprine 50mg QAM and 100mg QHS. Would 
recommend follow up with outpatient GI team within ___ weeks of 
discharge, and repeat colonoscopy in ___ weeks to screen for 
colon cancer, given admission for diverticulitis.

#T2DM
Continue home metformin, glipizide, glulisine, dulaglutide. Will 
also continue aspirin, pravastatin for primary prevention.

#HTN
Continue home lisinopril on discharge.

TRANSITIONAL ISSUES:
====================
[] Started on PO levofloxacin/flagyl for diverticulitis. Plan 
for 7 day total course (___).
[] If patient has recurrent abdominal pain or spikes fevers at 
home despite antibiotics, or after completion of antibiotic 
course, would consider re-imaging of renal cyst and possibly ___ 
drainage for infected renal cyst/abscess, though this is not 
expected.
[] Please ensure follow up with urology in ___ months with Dr. 
___ repeat MRI of kidneys with and without contrast to 
further evaluate renal cyst.
[] Would recommend follow up with outpatient GI team within ___ 
weeks of discharge, and repeat colonoscopy in ___ weeks to 
screen for colon cancer, given admission for diverticulitis.
[] F/u final blood culture result from ___. Currently no 
growth to date.

#CODE: Full
#CONTACT: ___ (wife) Phone: ___ 

>30 minutes spent coordinating discharge home
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. MetFORMIN (Glucophage) 1000 mg PO BID 
3. Lisinopril 10 mg PO DAILY 
4. Pravastatin 20 mg PO QPM 
5. Omeprazole 40 mg PO DAILY:PRN heart burn 
6. LORazepam 0.5 mg PO DAILY 
7. AzaTHIOprine 50 mg PO QAM 
8. AzaTHIOprine 100 mg PO QHS 
9. Trulicity (dulaglutide) 1.5 mg/0.5 mL subcutaneous 1X/WEEK 
10. GlipiZIDE 10 mg PO BID 
11. glulisine U-100 20 Units Dinner
12. Vitamin D ___ UNIT PO DAILY 
13. Amphetamine-Dextroamphetamine 30 mg PO BID 
14. testosterone cypionate 200 mg/mL injection 1X/WEEK 

 
Discharge Medications:
1.  Levofloxacin 750 mg PO Q24H Duration: 6 Days 
RX *levofloxacin [Levaquin] 750 mg 1 tablet(s) by mouth once a 
day Disp #*6 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H Duration: 6 Days 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*18 Tablet Refills:*0 
3.  glulisine U-100 20 Units Dinner 
4.  Amphetamine-Dextroamphetamine 30 mg PO BID  
5.  Aspirin 81 mg PO DAILY  
6.  AzaTHIOprine 50 mg PO QAM  
7.  AzaTHIOprine 100 mg PO QHS  
8.  GlipiZIDE 10 mg PO BID  
9.  Lisinopril 10 mg PO DAILY  
10.  LORazepam 0.5 mg PO DAILY  
11.  MetFORMIN (Glucophage) 1000 mg PO BID  
12.  Omeprazole 40 mg PO DAILY:PRN heart burn  
13.  Pravastatin 20 mg PO QPM  
14.  testosterone cypionate 200 mg/mL injection 1X/WEEK  
15.  Trulicity (dulaglutide) 1.5 mg/0.5 mL subcutaneous 1X/WEEK  

16.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Diverticulitis
#Renal cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
-You were admitted because you had left sided abdominal and 
flank pain.  

What happened while I was in the hospital?  
- You were found to have an elevated WBC count and inflammatory 
markers in your blood which was concerning for infection. You 
had a CT scan of your abdomen which showed two potential sources 
of your symptoms. You have evidence of diverticulitis (an 
infection in your colon), and a cyst on your kidney.
- We treated you with antibiotics for your diverticulitis. You 
will need to continue to take these antibiotics at home as 
prescribed. 
- You were seen by our urology department regarding the cyst on 
your kidney. You will need to follow up with the urology 
department on discharge for repeat MRI of your kidneys in ___ 
months. 
- There is a small chance that your kidney cyst is infected, 
however this is unlikely, per our urology team. If you develop 
any new fevers/chills at home or recurrent L sided pain, please 
seek medical attention immediately. 

What should I do after leaving the hospital?  
-  Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,

Your ___ Healthcare Team  
 
Followup Instructions:
___